US09290468B2
Step 10: 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-hydroxyethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide
To a solution of compound 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide (191 mg, 0.39 mmol) in CH2Cl2 (10 mL) was added 1.0 N HCl (aq., 1.5 mL, 1.5 mmol). After stirring for 1 h, the reaction mixture was neutralized with saturated NaHCO3 (aq.). The aqueous layer was washed with CH2Cl2 (10 mL×2). The combined organic layer was washed with water (30 mL×2) and brine (30 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel (CH2Cl2/MeOH, 20:1, v/v) and gave the desired product as a yellow solid (150 mg, 66.5% yield for two steps). 1H NMR (400 MHz, CD3OD): δ 8.53 (s, 1H), 7.69 (s, 1H), 7.34 (d, 1H), 6.74 (m, 1H), 3.91 (m, 2H), 3.62 (m, 2H). MS APCI (+) m/z: 462.5 [M+H].

reactant | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide | 0.39 mmol, 191 mg | FC1=C(C(=CC2=C1N=NS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)Br)Cl | C17H13BrClFN4O3S
reactant | HCl | 1.5 mmol, 1.0 N, 1.5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-5-((4-bromo-2-chlorophenyl)amino)-N-(2-hydroxyethoxy)benzo[d][1,2,3]thiadiazole-6-carboxamide | 150 mg, 66.5% yield | FC1=C(C(=CC2=C1N=NS2)C(=O)NOCCO)NC2=C(C=C(C=C2)Br)Cl | C15H11BrClFN4O3S
